subckt aoai211_x1 A1 A2 B C X VDD VSS
AOAI211A0_PA0 (aoai211_and_n A1 VDD VDD) pmos w=2u l=100n
AOAI211A0_PB0 (aoai211_and_n A2 VDD VDD) pmos w=2u l=100n
AOAI211A0_NB0 (aoai211_and_n A2 nmid_AOAI211A0_0 VSS) nmos w=1u l=100n
AOAI211A0_NA0 (nmid_AOAI211A0_0 A1 VSS VSS) nmos w=1u l=100n
AOAI211AI0_P0 (aoai211_and aoai211_and_n VDD VDD) pmos w=2u l=100n
AOAI211AI0_N0 (aoai211_and aoai211_and_n VSS VSS) nmos w=1u l=100n
AOAI211N20_PA0 (pmid_AOAI211N20_0 aoai211_and VDD VDD) pmos w=2u l=100n
AOAI211N20_PB0 (aoai211_ao_n B pmid_AOAI211N20_0 VDD) pmos w=2u l=100n
AOAI211N20_NA0 (aoai211_ao_n aoai211_and VSS VSS) nmos w=1u l=100n
AOAI211N20_NB0 (aoai211_ao_n B VSS VSS) nmos w=1u l=100n
AOAI211OI0_P0 (aoai211_ao aoai211_ao_n VDD VDD) pmos w=2u l=100n
AOAI211OI0_N0 (aoai211_ao aoai211_ao_n VSS VSS) nmos w=1u l=100n
AOAI211NAND0_PA0 (X aoai211_ao VDD VDD) pmos w=2u l=100n
AOAI211NAND0_PB0 (X C VDD VDD) pmos w=2u l=100n
AOAI211NAND0_NB0 (X C nmid_AOAI211NAND0_0 VSS) nmos w=1u l=100n
AOAI211NAND0_NA0 (nmid_AOAI211NAND0_0 aoai211_ao VSS VSS) nmos w=1u l=100n
ends aoai211_x1
